US07897597B2
2-(8-Benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine (2.19 g, 5.4 mmol), triethylamine (1.5 mL, 10.8 mmol), and dichloromethane (50 mL) were combined. Methanesulfonic anhydride (1.04 g, 6.0 mmol) was added and the reaction was stirred overnight. Analysis by thin layer chromatography indicated that the reaction was not complete. An additional 0.2 g of methanesulfonic anhydride was added and the reaction was stirred for 2 more hours. Saturated sodium bicarbonate was added and the layers were separated. The organic fraction was sequentially washed with a second portion of saturated sodium bicarbonate and then brine; dried over sodium sulfate; filtered; and concentrated under reduced pressure to provide an orange foam. The residue was purified by column chromatography on a HORIZON HPFC system. A silica gel cartridge was used eluting with a gradient of 0-20% CMA in chloroform to provide 2.37 g of N-[2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide as a white solid.

reactant | 2-(8-Benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethylamine | 5.4 mmol, 2.19 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)(C)N)COCC | C24H28N4O2
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonic anhydride | 6.0 mmol, 1.04 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanesulfonic anhydride | 0.2 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[2-(8-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]methanesulfonamide | 2.37 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3CC(C)(C)NS(=O)(=O)C)COCC | C25H30N4O4S
